US07781454B2
Step 1: 1-(4-methoxybenzyl)-1H-1,2,3-benzotriazol-4-ol
4-Methoxy-benzylbromide (2.976 g, 14.80 mmol) was added to a stirred suspension of 4-hydroxy-benztriazole (2.0 g, 14.80 mmol) and cesium carbonate (9.645 g, 29.6 mmol) in DMF (30 mL) at room temperature and the reaction mixture was stirred for 1 hour. Aqueous ammonium chloride (30 mL) was then added to quench the reaction and the mixture was then extracted with ethyl acetate (2×100 mL). The organic fractions were combined and concentrated under reduced pressure. The resulting residue was subjected to reverse phase chromatography (5-95% MeCN/H2O, 0.1% TFA). The product fractions were combined and extracted with dichloromethane (2×100 mL). The combined extracts were dried over MgSO4, filtered and concentrated under reduced pressure to yield the title product. 1H NMR (DMSO d6) δ 10.67 (s, 1, H), 7.29-7.27 (m, 3H), 7.15 (d, J=8.3 Hz, 1H), 6.88-6.84 (m, 2H), 6.63 (d, J=7.6 Hz, 1H), 5.80 (s, 2H), 3.71 (s, 3H).

reactant | 4-Methoxy-benzylbromide | 14.80 mmol, 2.976 g | COC1=CC=C(CBr)C=C1 | C8H9BrO
reactant | 4-hydroxy-benztriazole | 14.80 mmol, 2.0 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | cesium carbonate | 29.6 mmol, 9.645 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ammonium chloride | 30 mL | [Cl-].[NH4+]
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 1-(4-methoxybenzyl)-1H-1,2,3-benzotriazol-4-ol | COC1=CC=C(CN2N=NC3=C2C=CC=C3O)C=C1 | C14H13N3O2
